US07402704B2
2-[4-(2-Chloro-4-imidazol-1-yl-benzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol
50 mg 2-[4-(2-Chloro-4-fluoro-benzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol (0.13 mmol) was combined in a pressure tube with 50 mg imidazole. The resulting mixture was then placed into a preheated 100° C. bath. After stirring for 12 h, the mixture was diluted with CH2Cl2 and sat. NaHCO3, then extracted (3×10% MeOH/CH2Cl2). The organics were dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography (SiO2, 3-5% MeOH/CH2Cl2) gave 60 mg of the product as a white solid (0.13 mmol, quant.). 1H NMR (DMSO-d6, 400 MHz) δ 8.49 (s, 1H), 8.39 (d, J=8.7 Hz, 1H), 8.1 (d, J=2.2 Hz, 1H), 8.02 (dd, J=2.2 Hz, 8.7 Hz, 1H), 7.99 (d, J=8.7 Hz, 2H), 7.94 (s, 1H), 7.86 (d, J=8.6 Hz, 2H), 7.16 (s, 1H), 6.91 (s, 1H), 1.71 (s, 3H).

reactant | 2-[4-(2-Chloro-4-fluoro-benzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol | 0.13 mmol, 50 mg | ClC1=C(C=CC(=C1)F)S(=O)(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C15H11ClF4O3S
reactant | imidazole | 50 mg | N1C=NC=C1 | C3H4N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-[4-(2-Chloro-4-imidazol-1-yl-benzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol | 0.13 mmol, 60 mg | ClC1=C(C=CC(=C1)N1C=NC=C1)S(=O)(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C18H14ClF3N2O3S
